US06919331B2
To a suspension of [1-(4-hydroxy-butyl)-2-(3-vinyl-indazol-1-ylmethyl)-1H-benzoimidazol-5-ylmethyl]-carbamic acid tert-butyl ester (17 mg, 0.036 mmol) in DCM (1 mL) was added TFA (82 μL, 1.1 mmol). The solution was allowed to stir for 2.5 hrs. followed by the removal of the volatiles in vacuo. The resulting trifluoroacetate was dissolved in methanol (3 mL) followed by the addition of acetyl cloride (26 μL, 0.36 mmol) and concentrated after 10 min. This procedure was repeated once allowing the reaction to run for 3 hrs. The solution was concentrated in vacuo and the residue stripped with DCM (thrice). The product was triturated in diethyl ether and the ether decanted to yield 4-[5-aminomethyl-2-(3-vinyl-indazol-1-ylmethyl)-benzoimidazol-1-yl]-butan-1-ol; HCl salt (10 mg, 67%) as an off white solid:

reactant | [1-(4-hydroxy-butyl)-2-(3-vinyl-indazol-1-ylmethyl)-1H-benzoimidazol-5-ylmethyl]-carbamic acid tert-butyl ester | 0.036 mmol, 17 mg | C(C)(C)(C)OC(NCC1=CC2=C(N(C(=N2)CN2N=C(C3=CC=CC=C23)C=C)CCCCO)C=C1)=O | C27H33N5O3
reactant | TFA | 1.1 mmol, 82 μL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | acetyl cloride | 0.36 mmol, 26 μL | C(C)(=O)Cl | C2H3ClO
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | 4-[5-aminomethyl-2-(3-vinyl-indazol-1-ylmethyl)-benzoimidazol-1-yl]-butan-1-ol | NCC1=CC2=C(N(C(=N2)CN2N=C(C3=CC=CC=C23)C=C)CCCCO)C=C1 | C22H25N5O
